US04097669
8.5 g (0.061 mole) of 3,5-dimethylthiophenol, 6.2 g (0.061 mole) of triethylamine and 14.3 g (0.061 mole) of 2 -bromo-5-trifluoromethyl-1,3,4-thiadiazole in 150 mole of tetrahydrofuran were stirred for 30 minutes under reflux. The salt (by-product) which had precipitated was filtered off and washed thoroughly with tetrahydrofuran. After distilling off the solvent in vacuo, a colorless oil passed over on distillation. 16.8 g (95% of theory) of 2-(3',5'-dimethylphenylthio)-5-trifluoromethyl-1,3,4-thiadiazole of boiling point 107°-108° C/10.2 mm Hg were obtained. 22.8 g (0.201 mole) of hydrogen peroxide (30% strength) in 100 ml of glacial acetic acid were added thereto and the reaction mixture was stirred for 15 hours at 60° C, and poured onto ice water. The precipitate was filtered off and recrystallized from ethanol. 12.7 g (54% of theory) of 2-(3',5'-dimethylphenylsulfonyl)-5-trifluoromethyl-1,3,4-thiadiazole of melting point 110° C were obtained.

reactant | 3,5-dimethylthiophenol | 0.061 mole, 8.5 g | CC=1C=C(C=C(C1)C)S | C8H10S
reactant | triethylamine | 0.061 mole, 6.2 g | C(C)N(CC)CC | C6H15N
reactant | 2 -bromo-5-trifluoromethyl-1,3,4-thiadiazole | 0.061 mole, 14.3 g | BrC=1SC(=NN1)C(F)(F)F | C3BrF3N2S
reactant | tetrahydrofuran | 150 mole | O1CCCC1 | C4H8O
product | 2-(3',5'-dimethylphenylthio)-5-trifluoromethyl-1,3,4-thiadiazole | 16.8 g, 95% | CC=1C=C(C=C(C1)C)SC=1SC(=NN1)C(F)(F)F | C11H9F3N2S2
